US05026712
5,6-Dihydro-3-methyl-8-phenylimidazo[1,5-a]pyridine
Combine 270 g (1.48 mol) of 4-chlorobutyrophenone with 600 g (7.3 mol) of 2-methylimidazole and heat to 175° C. for 24 hr. Crystallization from ether provides the title compound.

reactant | 4-chlorobutyrophenone | 1.48 mol, 270 g | ClCCCC(=O)C1=CC=CC=C1 | C10H11ClO
reactant | 2-methylimidazole | 7.3 mol, 600 g | CC=1NC=CN1 | C4H6N2
product | 5,6-Dihydro-3-methyl-8-phenylimidazo[1,5-a]pyridine | CC1=NC=C2N1CCC=C2C2=CC=CC=C2 | C14H14N2
